US07723330B2
Step A: Preparation of methyl 1-(2-hydroxyphenylcarbamoyl)cyclopropane carboxylate:
To a stirred suspension of potassium 1-(methoxycarbonyl)cyclopropanecarboxylate (182 mg, 1 mmol) in 3 mL THF at room temperature under nitrogen was added 15 μL of DMF. Oxalyl chloride (87 μL, 1 mmol) was then added neat dropwise by syringe. After stirring at ambient temperature for 2 hours, the reaction was cooled to 0° C. and treated with DIEA (0.497 ml, 2.85 mmol) followed by 2-aminophenol (104 mg, 0.951 mmol) neat as a solid. The cooling bath was allowed to melt and the reaction was then stirred at ambient temperature overnight. The reaction was diluted to 30 mL with ethyl acetate and washed with 2N HCl, water, saturated sodium bicarbonate and brine. The organics were dried (MgSO4), filtered and concentrated to a yellow solid (147 mg, 68% yield).

reactant | potassium 1-(methoxycarbonyl)cyclopropanecarboxylate | 1 mmol, 182 mg | COC(=O)C1(CC1)C(=O)[O-].[K+]
reactant | Oxalyl chloride | 1 mmol, 87 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DIEA | 2.85 mmol, 0.497 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-aminophenol | 0.951 mmol, 104 mg | NC1=C(C=CC=C1)O | C6H7NO
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 15 μL | CN(C)C=O | C3H7NO
product | methyl 1-(2-hydroxyphenylcarbamoyl)cyclopropane carboxylate | 147 mg, 68% yield | OC1=C(C=CC=C1)NC(=O)C1(CC1)C(=O)OC | C12H13NO4
